US04692465
N-[2-(4-Methylaminocarbonylmethoxyphenyl)-1-methylethyl]-2-(2-hydroxyethoxy)-2-(3-chlorophenyl)ethanamine hydrochloride
A mixture of N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-hydroxyethoxy)-2-(3-chlorophenyl)ethanamine (4.0 g) and 33% methylamine in ethanol (50 ml) was heated under reflux for 1.5 h. The mixture was evaporated under reduced pressure and the residue converted to its hydrochloride by addition of ethereal hydrogen chloride. Recrystallisation from ethyl acetate-methanol gave the title compound, mp. 117°-121° C. as a 56:44 mixture of diastereoisomers.

reactant | N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-hydroxyethoxy)-2-(3-chlorophenyl)ethanamine | 4.0 g | C(=O)(OC)COC1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)Cl)OCCO | C22H28ClNO5
reactant | methylamine | CN | CH5N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-[2-(4-Methylaminocarbonylmethoxyphenyl)-1-methylethyl]-2-(2-hydroxyethoxy)-2-(3-chlorophenyl)ethanamine hydrochloride | Cl.CNC(=O)COC1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)Cl)OCCO | InChI=1S/C22H29ClN2O4.ClH/c1-16(12-17-6-8-20(9-7-17)29-15-22(27)24-2)25-14-21(28-11-10-26)18-4-3-5-19(23)13-18;/h3-9,13,16,21,25-26H,10-12,14-15H2,1-2H3,(H,24,27);1H
